2134-03-21 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   ASA level peaked and trending down
   Allergies:
   Sulfa (Sulfonamides)
   Unknown; diff.
   Soybean
   all soy product
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-3-21**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.8
C (98.3
   HR: 117 (111 - 147) bpm
   BP: 135/68(84) {98/54(68) - 135/84(97)} mmHg
   RR: 31 (23 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    883 mL
                                                                  2,652 mL
   PO:
                                                                    300 mL
                                                                  1,050 mL
   TF:
   IVF:
                                                                    583 mL
                                                                  1,602 mL
   Blood products:
   Total out:
                                                                    340 mL
                                                                    725 mL
   Urine:
                                                                    340 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    543 mL
                                                                  1,927 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   234 K/uL
   10.3 g/dL
   116 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.4 mEq/L
   13 mg/dL
   105 mEq/L
   143 mEq/L
   31.0 %
   9.1 K/uL
        [image002.jpg]
                             [**2134-3-20**]  09:26 PM
                             [**2134-3-21**]  05:32 AM
   WBC
   9.1
   Hct
   31.0
   Plt
   234
   Cr
   1.0
   0.8
   Glucose
   112
   116
   Other labs: PT / PTT / INR:19.1/33.1/1.8, ALT / AST:23/15, Alk Phos / T
   Bili:96/, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   <I>ASSESSMENT:</I>50F with history of depression/anxiety, recent
   parathyroid surgery and agitation/altered mental status in setting of
   aspirin injestion.
   <I>PLAN:</I>
   <I>## Aspirin overdose:</I>The amount of injestion is unclear. Pt
   presentatin concerning for aspirin toxicity with confusion, diaphorese
   and mild hyperpyrexia, tachycardia and tachypnea, respiratory alkalosis
   with anion gap.  Aspirin level of 54 is within toxic range.  Will need
   close monitoring to ensure level is decreasing.  Indications for
   dialysis include ASA level >90-100 mg/dL, significantly altered mental
   status/szs, ARF, pulmonary edema, or worsening clinical status despite
   appropriate alkalinization.
   -Urine alkalinization with Q1 hour urine pH (goal >8)
   -D5W with 150mEq NaBicarb/L at 150-200ml/hr
   -Follow ASA levels q2hrs until decreasing, call renal for consideration
   of CVVH if increasing or if mental status worsens, team aware.
   -Goal SERUM pH 7.45-7.55
   -avoid sedating meds as may decrease compensatory respiratory drive.
   <I>## Altered mental status:/<I>Differential includes, most likely
   aspirin toxicity, other possibilities include depression with psychotic
   features, severe anxiety, manic episode, thyrotoxicity, hypercalcemia,
   serotonin syndrome (especially in setting of recent medication change)
   -treat asa toxicity as above
   -f/u thyroid studies as below
   -hydration as above will also rx hypercalcemia
   -psych c/w when acute toxicity risk resolved
   -hold SSRIs for now
   <I>## Suicide attempt/depression:</I>
   -hold SSRI, antipsychotics for now
   -psych consult when stable
   -1:1 sitter
   <I>## HTN:</I>Hold home lisinopril in setting of relative hypotension
   and overdose
   <I>## DM:</I>permissive hyperglycemia for now, giving D5 with bicarb,
   pts with asa overdose require higher blood glucose levels to maintain
   CNS euglycemia.
   -Q1 fingersticks overnight.
   -hold metformin
   -Liberal [**Last Name (LF) 5607**], [**First Name3 (LF) 116**] give insulin for persistent FSBS >200
   <I>## Hypothyroidism:</I>Pt has history of hypothyroidism with recent
   parathyroidectomy.  Her altered mental status may be attributable to
   thyrotoxicity in setting of recent surgical manipulation or possible
   levothyroixine overdose
   -theck TSH, FT4
   <I>## Hyperlipidemia:</I>
   -hold lipitor, restart on d/c
   <I>## Cardiomyopathy:</I>Ideopathic dilated cardiomyopathy, with
   depressed EF, most recently 50%.  No evidence of decompensated heart
   failure on exam. Monitor closely, inability to tolerate necessary fluid
   challenge may be indication for HD.
   -Hold BB in setting of low BP, overdose.  Restart on d/c
   ICU Care
   Nutrition:
   Glycemic Control: Blood sugar well controlled
   Lines:
   20 Gauge - [**2134-3-20**] 08:15 PM
   Prophylaxis:
   DVT: (ambulate)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2134-03-22 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Sulfa (Sulfonamides)
   Unknown; diff.
   Soybean
   all soy product
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-3-22**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 66 (66 - 118) bpm
   BP: 149/70(88) {103/40(55) - 149/120(124)} mmHg
   RR: 22 (17 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,373 mL
                                                                    190 mL
   PO:
                                                                  2,910 mL
             TF:
   IVF:
                                                                  3,463 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                  2,715 mL
                                                                    380 mL
   Urine:
                                                                  2,715 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,658 mL
                                                                   -190 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   234 K/uL
   10.3 g/dL
   116 mg/dL
   0.8 mg/dL
   27 mEq/L
   2.9 mEq/L
   13 mg/dL
   105 mEq/L
   143 mEq/L
   31.9 %
   9.1 K/uL
        [image002.jpg]
                             [**2134-3-20**]  09:26 PM
                             [**2134-3-21**]  05:32 AM
                             [**2134-3-21**]  10:53 AM
   WBC
   9.1
   Hct
   31.0
   31.9
   Plt
   234
   Cr
   1.0
   0.8
   Glucose
   112
   116
   Other labs: PT / PTT / INR:16.0/21.3/1.4, ALT / AST:23/15, Alk Phos / T
   Bili:96/, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   I>ASSESSMENT:</I>50F with history of depression/anxiety, recent
   parathyroid surgery and agitation/altered mental status in setting of
   aspirin ingestion.
   <I>PLAN:</I>
   <I>## Aspirin overdose:</I>ASA decreasing slowly, no e/o ARF, sz,
   mental status significantly improved. Pt. still complaining of
   decreased hearing bilaterally. No urgent need for dialysis.
   -Urine alkalinization with Q1 hour urine pH (goal >8)
   -D5W with 150mEq NaBicarb/L at 125cc/hr Goal SERUM pH 7.45-7.55
   -Follow ASA levels q4hrs until significantly decreased
    -avoid sedating meds as may decrease compensatory respiratory drive.
   <I>## Altered mental status:/<I>Appears acute on subacute as confusion
   started on Thursday, possibly thyrotoxicosis vs. manic episode vs.
   serotonin syndrome which precipitated suicide attempt w/ acute
   exacerbation by ASA toxicity.
   -treat asa toxicity as above
   -Curbside endocrine re: measurement of synthroid
   - Hold synthroid
   -hydration as above will also rx hypercalcemia
   -psych consult
   -continue to hold SSRIs for now
   <I>## Suicide attempt/depression:</I>
   -hold SSRI, antipsychotics for now
   -psych consult today as she is able to converse now
   - continue 1:1 sitter
   <I>## HTN:</I>Hold home lisinopril in setting of relative hypotension
   and overdose
   <I>## DM:</I>permissive hyperglycemia for now, giving D5 with bicarb,
   pts with asa overdose require higher blood glucose levels to maintain
   CNS euglycemia.  Glucose has only been mildly elevated and given her
   small glucophage dose likely she has very mild DMII.
   -Q4 fingersticks
   -hold metformin
   -Liberal [**Last Name (LF) 5607**], [**First Name3 (LF) 116**] give insulin for persistent FSBS >200
   <I>## Hyperthyroidism:</I>TSH .14, possibly represnts synthroid
   overdose, will d/w endocrine whether or not synthroid is measured as
   part of free T4. Could be precipitant of manic episode or AMS w/
   tachycardia.
   - endocrine curbside
   - hold Levothyroxine
   -
   <I>## Hyperlipidemia:</I>
   -hold lipitor, restart on d/c
   <I>## Cardiomyopathy:</I>Tachycardia may be a manifestation of BB
   withdrawl.
   - restart home metoprolol
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-3-21**] 06:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-03-22 10:02:00 Physician Attending Progress Note
Chief Complaint: ASA Ingestion
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
                                 History obtained from [**Hospital 31**] Medical records
   Allergies:
   Sulfa (Sulfonamides)
   Unknown; diff.
   Soybean
   all soy product
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-3-22**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 80 (66 - 118) bpm
   BP: 162/86(102) {103/40(55) - 162/120(124)} mmHg
   RR: 24 (17 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,373 mL
                                                                    190 mL
   PO:
                                                                  2,910 mL
             TF:
   IVF:
                                                                  3,463 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                  2,715 mL
                                                                    380 mL
   Urine:
                                                                  2,715 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,658 mL
                                                                   -190 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic), Soft
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   217 K/uL
   112 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.7 mEq/L
   12 mg/dL
   108 mEq/L
   141 mEq/L
   33.0 %
   5.7 K/uL
        [image002.jpg]
                             [**2134-3-20**]  09:26 PM
                             [**2134-3-21**]  05:32 AM
                             [**2134-3-21**]  10:53 AM
                             [**2134-3-22**]  05:49 AM
   WBC
   9.1
   5.7
   Hct
   31.0
   31.9
   33.0
   Plt
   234
   217
   Cr
   1.0
   0.8
   0.6
   Glucose
   112
   116
   112
   Other labs: PT / PTT / INR:16.0/21.3/1.4, ALT / AST:23/15, Alk Phos / T
   Bili:96/, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: ASA--16
   Assessment and Plan
   50 yo female with history of depression/anxiety and worsening symptoms
   of agitation/irritation at home now admitted with ASA ingestion and
   toxicity in the setting of self-medication attempts for poor sleep.
   1)ASA Ingestion
Has had encouraging trend down in ASA levels following
   HCO3- Rx.  No evidence of acute toxicity at this time.
   -No ASA
   -Levels trended down
   2)Altered Mental Status/Anxiety-
   -Psych in to eval patient
   -Will need to consider titration of medication and perhaps in inpatient
   setting given failure of outpatient setting
   3)Tachyardia
called by cardiology with concern for possible Vt on ECG
   from 2 days ago.
   Patient with stabilization of HR, known LBBB and by our interpretation
   do not seen Vt clearly.
   -Will follow up on final read of ECG
   -Will consider further evaluation baed on clinical course and final ECG
   read
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-3-21**] 06:14 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes